US04886817
By treating 2.53 g of (E)-N-cinnamyl-N'-(3-pyridyl)ethylenediamine and 1.63 g of carbonyldiimidazole in the same manner as in Example 106-(2), 1.96 g of (E)-1-cinnamyl-3-(3-pyridyl)-2-imidazolidinone was obtained.

reactant | (E)-N-cinnamyl-N'-(3-pyridyl)ethylenediamine | 2.53 g | C(\C=C\C1=CC=CC=C1)NCCNC=1C=NC=CC1 | C16H19N3
reactant | carbonyldiimidazole | 1.63 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
product | (E)-1-cinnamyl-3-(3-pyridyl)-2-imidazolidinone | 1.96 g, Yield: 70% | C(\C=C\C1=CC=CC=C1)N1C(N(CC1)C=1C=NC=CC1)=O | C17H17N3O
